US09278968B2
To a solution of 228 mg of ethyl [(diphenylmethylene)amino](1-methyl-1H-pyrazol-4-yl)acetate in 2.8 ml of 1,4-dioxane was added 1.9 ml of 1 M hydrochloric acid, followed by stirring at room temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure, the obtained residue was washed with diethyl ether, and to the aqueous layer was added a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated under reduced pressure to obtain 91 mg of ethyl amino(1-methyl-1H-pyrazol-4-yl)acetate.

reactant | ethyl [(diphenylmethylene)amino](1-methyl-1H-pyrazol-4-yl)acetate | 228 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)C=1C=NN(C1)C | C21H21N3O2
reactant | hydrochloric acid | 1 M, 1.9 ml | Cl | ClH
solvent | 1,4-dioxane | 2.8 ml | O1CCOCC1 | C4H8O2
product | ethyl amino(1-methyl-1H-pyrazol-4-yl)acetate | 91 mg | NC(C(=O)OCC)C=1C=NN(C1)C | C8H13N3O2
